US03953500
In 80 ml. of dimethylsulfoxide is dissolved 15 g. of methyl 1-chloroindan-4-carboxylate and the solution is stirred. The, 5.3 g. of sodium cyanide is added, followed by stirring for 8 hours. Following the addition of 750 ml. of water, the reaction mixture is extracted with ether. The extract is washed with a saturated aqueous solution of sodium chloride and, then, dried. The solvent is distilled off under reduced pressure and the residue is purified by column chromatography on silica gel (500 g. silica gel; eluant: chloroform). The described procedure gives methyl 1-cyanoindan-4-carboxylate as crystals melting at 76.5°-77.5°C.

reactant | methyl 1-chloroindan-4-carboxylate | ClC1CCC=2C(=CC=CC12)C(=O)OC | C11H11ClO2
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | methyl 1-cyanoindan-4-carboxylate | C(#N)C1CCC=2C(=CC=CC12)C(=O)OC | C12H11NO2
